US07465730B2
Utilizing the general procedure outlined in EXAMPLE 1, acetonyl acetone (5.88 mL, 50 mmol) and 2,4-dimethoxyaniline (7.12 mL, 50 mmol) reacted to give 1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole as a tan solid: 1H NMR (CDCl3, 500 MHz) δ 7.08 (dd, 1H), 6.59 (d, 1H), 6.55 (dd, 1H), 5.90 (s, 2H), 3.91 (s, 3H), 3.80 (s, 3H), 1.97 (s, 6H); MS (ESI) 232 (M+H)+.

reactant | acetonyl acetone | 50 mmol, 5.88 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 2,4-dimethoxyaniline | 50 mmol, 7.12 mL | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | 1-(2,4-dimethoxyphenyl)-2,5-dimethylpyrrole | COC1=C(C=CC(=C1)OC)N1C(=CC=C1C)C | C14H17NO2
